### PR TITLE
Check that the universe binders of each component of a "Theorem with" are consistent + code factorization.

### PR DESCRIPTION
**Pull request by herbelin**
In `Theorem with`, only the universe declaration of the first component was taken into account, leading to behaviors such as
```coq
Theorem f@{u} (n:nat) : Type@{u} with g@{v} (n:nat) : Type@{v}.
(* raises "Undeclared universe: v." about `Type@{v}.` *)
```
or
```coq
Set Universe Polymorphism.
Theorem f@{u} (n:nat) : nat with g@{v w} (n:nat) : nat.
Proof.
exact (match n with 0 => 0 | S n => g n end).
exact (match n with 0 => 0 | S n => f n end).
Defined.
(* About g reports about u but not v and w *)
```
The PR applies the same policy as in `Fixpoint`, that is checking that all components have the same universe declarations.

- [x] Added / updated **test-suite**.
- [ ] Added **changelog**.

### CODE REVIEW

**Comment by herbelin** [comment]
@coqbot run full ci

**Comment by herbelin** [comment]
@coqbot run full ci

File: interp/constrintern.mli [hunk 1]
```diff
@@ -227,3 +227,7 @@ val interp_cumul_univ_decl_opt : Environ.env -> cumul_univ_decl_expr option ->
   Evd.evar_map * UState.universe_decl * Entries.variance_entry
 (** BEWARE the variance entry needs to be adjusted by
    [ComInductive.variance_of_entry] if the instance is extensible. *)
+
+val interp_mutual_univ_decl_opt : Environ.env -> universe_decl_expr option list ->
+                       Evd.evar_map * UState.universe_decl
```
Comment (SkySkimmer) [inline interp/constrintern.mli:232]: too indented

File: test-suite/success/Fixpoint.v [hunk 2]
```diff
@@ -422,3 +422,14 @@ Module NoArgumentFixpoint.
...
 End NoArgumentFixpoint.
+
+Module TheoremWithUnivs.
+
+Fail Fixpoint f@{u} (n:nat) : nat with g@{v} (n:nat) : nat.
+Fail Theorem f@{u} (n:nat) : nat with g@{v} (n:nat) : nat.
+Fail CoFixpoint f@{u} (n:nat) : Stream 0 with g@{v} (n:nat) : Stream 0.
+Fixpoint f@{u} (n:nat) : nat with g@{u} (n:nat) : nat. Abort.
+Theorem f@{u} (n:nat) : nat with g@{u} (n:nat) : nat. Abort.
+CoFixpoint f@{u} (n:nat) : Stream 0 with g@{u} (n:nat) : Stream 0. Abort.
```
[the remark this answers is not in the document]
Comment (herbelin) [reply test-suite/success/Fixpoint.v:477]: I added the test for one udecl.

Regarding expecting the udecl to be the first one, why not. If you insist I can do it (currently, it can be on any component). Otherwise, as I see advantages to either solution, and I'd be tempted to let it as it is.

[the remark this answers is not in the document]
Comment (SkySkimmer) [reply test-suite/success/Fixpoint.v:477]: ok

File: test-suite/success/Fixpoint.v [hunk 3]
```diff
@@ -466,3 +466,17 @@ exact
 Defined.
 
 End FixpointRelevance.
+
+Module TheoremWithUnivs.
+
+Fail Fixpoint f@{u} (n:nat) : nat with g@{v} (n:nat) : nat.
+Fail Theorem f@{u} (n:nat) : nat with g@{v} (n:nat) : nat.
+Fail CoFixpoint f@{u} (n:nat) : Stream 0 with g@{v} (n:nat) : Stream 0.
+Fixpoint f@{u} (n:nat) : nat with g@{u} (n:nat) : nat. Abort.
```
Comment (SkySkimmer) [inline test-suite/success/Fixpoint.v:475]: How about 
```suggestion
Succeed Fixpoint f@{u} (n:nat) : nat with g@{u} (n:nat) : nat.
```
instead?

File: interp/constrintern.mli (hunk 1 above)
Comment (SkySkimmer) [reply interp/constrintern.mli:232]: ping

File: test-suite/success/Fixpoint.v (hunk 3 above)
Comment (herbelin) [reply test-suite/success/Fixpoint.v]: Indeed done for that kind of purpose. Pushed.

File: interp/constrintern.mli (hunk 1 above)
Comment (SkySkimmer) [reply interp/constrintern.mli:232]: @herbelin can you see this comment?

Comment (herbelin) [reply interp/constrintern.mli]: Now yes, thanks for the reminder. Fixed (and ml comment rephrased).

**Review by SkySkimmer — APPROVED** [review]

**Comment by SkySkimmer** [comment]
needs rebase

**Comment by SkySkimmer** [comment]
@coqbot run full ci

**Comment by SkySkimmer** [comment]
@coqbot merge now
